US05464788
2-Chloroethanesulfonyl chloride (0.035 ml, 54.6 mg, 0.33 mmol) in methylene chloride (3 ml) was cooled in an ice bath under nitrogen. A solution of 1-(2-methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)-piperazine-2-carboxamide dihydrochloride (149 mg, 0.28 mmol) and diisopropylethylamine (0.243 ml, 0.18 g, 1.4 mmol) in methylene chloride (3 ml) was added dropwise and the mixture was stirred in the cold for 18 hours. The mixture was concentrated in vacuo and the residue chromatographed on silica gel eluted with 3% methanol in methylene chloride. The combined product fractions were evaporated to dryness in vacuo to give 1-(2-methoxy-4-(1-ethenylsulfonyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide.

reactant | 2-Chloroethanesulfonyl chloride | 0.33 mmol, 0.035 ml, 54.6 mg | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 1-(2-methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)-piperazine-2-carboxamide dihydrochloride | 0.28 mmol, 149 mg | Cl.Cl.COC1=C(C=CC(=C1)OC1CCNCC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N
reactant | diisopropylethylamine | 1.4 mmol, 0.243 ml, 0.18 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-methoxy-4-(1-ethenylsulfonyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)S(=O)(=O)C=C)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C28H36N4O6S
